### PR TITLE
Lemmata for `if_then_else_`

### PR DESCRIPTION
**Pull request by pmbittner**
We used `if_then_else_` a lot in one of [our projects](https://github.com/VariantSync/Vatras) and it turned out that sometimes these basic lemmata on `if_then_else_` are quite useful. While it is typically straightforward to resolve `if_then_else_` expressions by pattern matching on the boolean condition instead, sometimes it is convenient to use these lemmata when an `if_then_else_` occurs somewhere deep in an equational-reasoning chain.

### CODE REVIEW

File: src/Data/Bool/Properties.agda [hunk 1]
```diff
@@ -745,6 +745,50 @@ if-float : ∀ (f : A → B) b {x y} →
 if-float _ true  = refl
 if-float _ false = refl
 
+if-idemp : ∀ b {x : A} →
```
Comment (Taneb) [inline src/Data/Bool/Properties.agda]: Normally we abbreviate idempotent to `idem`

Comment (gallais) [reply src/Data/Bool/Properties.agda]: Is it more of an `if-eta`?

File: src/Data/Bool/Properties.agda [hunk 2]
```diff
@@ -745,6 +745,50 @@ if-float : ∀ (f : A → B) b {x y} →
...
+           (if b then x else x) ≡ x
+if-idemp false = refl
+if-idemp true  = refl
+
+if-swap : ∀ b c {x y : A} →
```
Comment (gallais) [inline src/Data/Bool/Properties.agda]: Is this `if-swapʳ`? Which suggests there's an opportunity for a left version too.

Comment (Taneb) [reply src/Data/Bool/Properties.agda]: I'd prefer it was called `if-swap-else`, there's three sides to every if (and similar for the `if-cong`s below)

File: src/Data/Bool/Properties.agda (hunk 1 above)
Comment (pmbittner) [reply src/Data/Bool/Properties.agda]: I think `if-eta` is a good name because it removes the unnecessary if-abstraction. Idempotence might rather be something like the following, which I am going to add:
```agda
if-idem : ∀ b {x y : A} → (if b then (if b then x else y) else y) ≡ (if b then x else y)
if-idem false = refl
if-idem true  = refl
```

File: src/Data/Bool/Properties.agda (hunk 2 above)
Comment (pmbittner) [reply src/Data/Bool/Properties.agda]: Ok, I will rename the theorem to `if-swap-else`, and I will also add the `if-swap-then` case.

Speaking of the `cong`-theorems, I noticed that a `cong`-theorem for the boolean condition is missing, so I am going to add that as well.

File: src/Data/Bool/Properties.agda (hunk 1 above)
Comment (pmbittner) [reply src/Data/Bool/Properties.agda]: Ah and this is again rather an `if-idem-then` and there is also an `if-idem-else`.

File: src/Data/Bool/Properties.agda [hunk 3]
```diff
@@ -745,6 +745,72 @@ if-float : ∀ (f : A → B) b {x y} →
...
+if-∨ false = refl
+if-∨ true  = refl
+
+if-xor : ∀ b {c} {x y : A} →
+         (if b xor c then x else y) ≡ (if b then (if c then y else x) else (if c then x else y))
+if-xor false = refl
+if-xor true {false} = refl
+if-xor true {true } = refl
+
+if-cong : ∀ {b c} {x y : A} → b ≡ c →
```
Comment (Taneb) [inline src/Data/Bool/Properties.agda:813]: Thinking about it, isn't this just `cong (if_then x else y)`? And similar for the other cong lemmas. Is it worth including?

Comment (pmbittner) [reply src/Data/Bool/Properties.agda:813]: Yes, it is indeed exactly that.

The benefit of the if-cong lemmas is that we can infer some of the branches automatically with implicit arguments, so we can omit them. That was the reason why I created these cong-lemmas in our project because sometimes we had large expressions in these branches and it was tedious to spell them out. Example:

```agda
open import Data.Bool using (if_then_else_)
open import Data.Bool.Properties using (if-cong-else)
open import Data.Nat using (ℕ; _+_)
open import Data.Nat.Properties using (+-comm)
open import Relation.Binary.PropositionalEquality as Eq using (_≡_; refl; cong)

looooooong-expression = 1

with-if-cong : ∀ b (x y : ℕ)
  → (if b then looooooong-expression else x + y)
  ≡ (if b then looooooong-expression else y + x)
with-if-cong b x y = if-cong-else b (+-comm x y)

with-cong : ∀ b (x y : ℕ)
  → (if b then looooooong-expression else x + y)
  ≡ (if b then looooooong-expression else y + x)
with-cong b x y = cong (if b then looooooong-expression else_) (+-comm x y)
```

**Review by JacquesCarette — APPROVED** [review]
Nice.

A lot of these generalize to partitions and piecewise functions. Which I should implement.

File: src/Data/Bool/Properties.agda (hunk 3 above)
Comment (pmbittner) [reply src/Data/Bool/Properties.agda:813]: This does not help with all elements within an `if_then_else_` though because we still have to spell out the condition (`b` in the example above).

Comment (MatthewDaggitt) [reply src/Data/Bool/Properties.agda:813]: Can you not just write `cong (if b then _ else_) (+-comm x y)` in that second proof? Does it actually not infer it? I assumed that anything that could be inferred by implicit arguments should also be inferable via underscores?

**Comment by MatthewDaggitt** [comment]
I'm dubious about the utility of the `cong` proofs but happy to approve if either i) they are removed or ii) they turn out to be actually needed. See my comment above.

File: src/Data/Bool/Properties.agda (hunk 3 above)
Comment (pmbittner) [reply src/Data/Bool/Properties.agda:813]: Good catch. I expected your idea to work but surprisingly it does not type check. (I admit that I do not know when it is safe to use `_` and I was not able to find documentation on it in the Agda documentation in a quick search.)

image

Comment (MatthewDaggitt) [reply src/Data/Bool/Properties.agda:813]: Wow, that's very weird. Okay, happy to accept it then. Can you write a couple of lines above the `cong` lemma section explaining why we're adding them then! I'll then accept and merge for v2.3.

Comment (pmbittner) [reply src/Data/Bool/Properties.agda:813]: I added the comment ([3eb32c3](https://github.com/agda/agda-stdlib/pull/2747/commits/3eb32c383344b4bdf6bee1a567e35075f539db2d)). I also noticed that some lemmas are longer than the style guide's line limit, so I added line breaks to some lemmas ([0d55cb9](https://github.com/agda/agda-stdlib/pull/2747/commits/0d55cb9c7c9fb79378082f295c7a487a0d92d1ed)). These line breaks also make it easier to see which terms in an `if_then_else_` are affected by a substitution.
